US08580812B2
Step 3. N-(Adamantan-1-ylmethyl)-3-(3-cyanobenzoyl)indolizine-8-carboxamide
A mixture of 3-[(adamantan-1-ylmethyl)carbamoyl]-1-[2-(3-cyanophenyl)-2-oxoethyl]-2-methylpyridinium bromide (400 mg, 0.81 mmol) and N,N-dimethylformamide dimethyl acetal (0.22 mL, 1.62 mmol) in DMF (2.0 mL) is stirred at 110° C. for 3 h. The mixture is concentrated in vacuo and purified by column chromatography (gradient from CH2Cl2 to 10% EtOAc/CH2Cl2) to give the title compound as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 9.91 (1H, d), 8.53 (1H, t), 8.15 (1H, m), 8.05 (2H, m), 7.74 (1H, t), 7.66 (1H, dd), 7.44 (1H, d), 7.22 (1H, t), 6.95 (1H, d), 3.01 (2H, d), 1.93 (3H, s), 1.63 (6H, m), 1.52 (6H, s). Mass spec. (438.19, M+H).

reactant | 3-[(adamantan-1-ylmethyl)carbamoyl]-1-[2-(3-cyanophenyl)-2-oxoethyl]-2-methylpyridinium bromide | 0.81 mmol, 400 mg | [Br-].C12(CC3CC(CC(C1)C3)C2)CNC(=O)C=2C(=[N+](C=CC2)CC(=O)C2=CC(=CC=C2)C#N)C
reactant | N,N-dimethylformamide dimethyl acetal | 1.62 mmol, 0.22 mL | COC(N(C)C)OC | C5H13NO2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | N-(Adamantan-1-ylmethyl)-3-(3-cyanobenzoyl)indolizine-8-carboxamide | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=CC=CN3C(=CC=C23)C(C2=CC(=CC=C2)C#N)=O | C28H27N3O2
